US03932411
5-{3-[4-(2-methylphenyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one
from 5-hydroxy-1-oxotetraline and 1-(3-chloropropyl)-4 -(2-methylphenyl)-piperazine; yield 73.4% of theory; m.p. of the hydrochloride (recrystallized from water) 243°-245°C;

reactant | 5-hydroxy-1-oxotetraline | OC1=C2CCCC(C2=CC=C1)=O | C10H10O2
reactant | 1-(3-chloropropyl)-4 -(2-methylphenyl)-piperazine | ClCCCN1CCN(CC1)C1=C(C=CC=C1)C | C14H21ClN2
reactant | hydrochloride | Cl | ClH
product | 5-{3-[4-(2-methylphenyl)-1-piperazinyl]-propoxy}-3,4-dihydro-2H-naphthalene-1-one | yield 73.4% | CC1=C(C=CC=C1)N1CCN(CC1)CCCOC1=C2CCCC(C2=CC=C1)=O | C24H30N2O2
